US03933845
c. 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole
A solution of 2.96 parts of 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]-N-benzyltetrazole in 500 parts of ethanol was stirred at 60°C, with 0.096 parts of 5% palladium on charcoal, in an atmosphere of hydrogen for 111/2 hours. The reaction mixture was cooled, was filtered and the solvent removed by evaporation to give a residue which was chromatographed on silica gel. Careful elution with chloroform and chloroform/acetone gave 0.16 parts of 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole, m.p. 199°-200°C (after recrystallisation from ethanol).

reactant | 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]-N-benzyltetrazole | CC(CCOC1=CC=C(C2=C1C(C=C(O2)C2=NN=NN2CC2=CC=CC=C2)=O)CCC)C | C25H28N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=C(C2=C1C(C=C(O2)C2=NN=NN2)=O)CCC)C | C18H22N4O3
